US07358248B2
(2R)-2-Amino-3-(4′-dibenzofuran-4-ylbipheny-4-ylmethylsulfanyl)-propionic acid
2N Sodium hydroxide (0.5 mL) was added to a stirred solution of the amino methyl ester, (2R)-Methyl-2-Amino-3-(4′-dibenzofuran-4-ylbipheny-4-ylmethylsulfanyl)-propionate (100 mg) in a mixture of tetrahydrofuran (5 mL) and methanol (1 mL). The solution was stirred for 1 hour and then acidified to pH 3 with 2N hydrochloric acid. The reaction mixture was extracted with ethyl acetate (3×10 mL). The combined extract was washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification of the product by flash column chromatography, using 25% methanol in methylene chloride as eluent, afforded the title compound as a cream solid (83 mg, 86%); Rf: 0.10 (25% methanol in dichloromethane); 1H NMR (DMSO-d6, 300 MHz): δ 11.20 (3H, br s, NH, OH), 7.94 (1H, d, J=9 Hz, Ar—H), 7.91 (1H, d, J=8 Hz, Ar—H), 7.86 (2H, d, J=9 Hz, Ar—H), 7.67 (2H, d, J=9 Hz, Ar—H), 7.48-7.57 (4H, m, Ar—H), 7.21-7.39 (5H, m, Ar—H), 4.02 (1H, dd, J=8, 5 Hz, CHN), 3.74 (2H, s, PhCH2S), 2.94 (1H, dd, J=16, 5 Hz, CHHCHN), 2.86 (1H, dd, J=16, 8 Hz, CHHCHN); ESI-LCMS e/z calcd for C28H23NO3S 453.560, found 454 (M+H)+.

reactant | Sodium hydroxide | 2N, 0.5 mL | [OH-].[Na+]
reactant | (2R)-Methyl-2-Amino-3-(4′-dibenzofuran-4-ylbipheny-4-ylmethylsulfanyl)-propionate | 100 mg | COC([C@H](CSCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)N)=O | C29H25NO3S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | (2R)-2-Amino-3-(4′-dibenzofuran-4-ylbipheny-4-ylmethylsulfanyl)-propionic acid | 83 mg, 86% | N[C@H](C(=O)O)CSCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C28H23NO3S
